US03966793
7-Chloro-3-carbamoyl-5-phenyl-2-oxo-2,3-dihydro-1H-benzo[f]-1,4-diazepine (4348 CB)
10 g. of 7-chloro-3-methoxycarbonyl-5-phenyl-2-oxo-2,3-dihydro-1H-benzo[f]-1,4-diazepine and 200 ml. of a 13.6% solution of ammonia in methanol are left together overnight at room temperature. The solid rapidly dissolves and after several hours a precipitate gradually forms which increases in quantity with passage of time, until the whole mass has solidified. The solid is filtered by suction and washed with methanol. An additional small quantity of the same product is obtained by concentrating the solution to dryness. The two crops are combined and recrystallized from methanol. Colorless crystals are obtained (7 g.); m.p. 255°-256°C.; yield 74%.

reactant | 7-chloro-3-methoxycarbonyl-5-phenyl-2-oxo-2,3-dihydro-1H-benzo[f]-1,4-diazepine | ClC=1C=CC2=C(C(=NC(C(N2)=O)C(=O)OC)C2=CC=CC=C2)C1 | C17H13ClN2O3
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 7-Chloro-3-carbamoyl-5-phenyl-2-oxo-2,3-dihydro-1H-benzo[f]-1,4-diazepine | yield 74% | ClC=1C=CC2=C(C(=NC(C(N2)=O)C(N)=O)C2=CC=CC=C2)C1 | C16H12ClN3O2
